US04476321
74.6 g of N-(2-pentafluoroethoxyphenylsulfonyl)-N'-methylurea are suspended in 1300 ml of chlorobenzene and made absolute by distilling off about 100 ml of solvent as an azeotrope. Then 48 g of phosgene are introduced at 120°-130° C. over 3 hours. The chlorobenzene is then completely distilled off, affording 65 g of 2-pentafluoroethoxyphenylsulfonyl isocyanate in the form of an almost colourless oil.

reactant | N-(2-pentafluoroethoxyphenylsulfonyl)-N'-methylurea | 74.6 g | FC(C(F)(F)F)(OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC)F | C10H9F5N2O4S
solvent | chlorobenzene | 1300 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-pentafluoroethoxyphenylsulfonyl isocyanate | 65 g | FC(C(F)(F)F)(OC1=C(C=CC=C1)S(=O)(=O)N=C=O)F | C9H4F5NO4S
